US08975400B2
1-methyl-7-((4-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzyl)oxy)-2,3-dihydroimid-azo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E1 using sodium hydride (4.85 mg, 0.121 mmol), (4-((2-(trifluoromethyl)pyridin-4-yl)oxy)phenyl)methanol (35 mg, 0.130 mmol) and 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (24.13 mg, 0.130 mmol).

reactant | sodium hydride | 0.121 mmol, 4.85 mg | [H-].[Na+]
reactant | (4-((2-(trifluoromethyl)pyridin-4-yl)oxy)phenyl)methanol | 0.130 mmol, 35 mg | FC(C1=NC=CC(=C1)OC1=CC=C(C=C1)CO)(F)F | C13H10F3NO2
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.130 mmol, 24.13 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
product | 1-methyl-7-((4-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzyl)oxy)-2,3-dihydroimid-azo[1,2-c]pyrimidin-5(1H)-one | CN1CCN2C(N=C(C=C21)OCC2=CC=C(C=C2)OC2=CC(=NC=C2)C(F)(F)F)=O | C20H17F3N4O3
